US08486902B2
Step 3. (R)-4-[1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl]-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-5-yl acetate
A solution of 3-cyclopentyl-3-[4-(5-iodo-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile (0.25 g, 0.54 mmol) in acetic acid (3 mL) was treated with silver acetate (0.27 g, 1.6 mmol) and heated to 70° C. for 16 h. The mixture was filtered, rinsed with MeCN, water was added to the filtrate and this mixture was stirred for 20 min, Solid sodium chloride was added to this solution. The product was obtained by extraction of this aqueous mixture with three portions of ethyl acetate. The combined extracts were dried over sodium sulfate, decanted and concentrated. A portion of the product was used in the hydrolysis step (Step 4) without further purification. 1H NMR (300 MHz, CDCl3): δ 9.87 (br s, 1H), 8.39 (s, 1H), 8.37 (s, 1H), 7.33 (s, 1H), 4.22 (dt, 1H), 4.06 (s, 3H), 3.14 (dd, 1H), 2.94 (dd, 1H), 2.64-2.47 (m, 1H), 2.36 (s, 3H), 2.03-1.86 (m, 1H), 1.79-1.12 (m, 7H); LCMS (M+H)+: 395.1.

reactant | 3-cyclopentyl-3-[4-(5-iodo-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile | 0.54 mmol, 0.25 g | C1(CCCC1)C(CC#N)N1N=CC(=C1)C=1C2=C(N=C(N1)OC)NC=C2I | C18H19IN6O
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | silver acetate | 1.6 mmol, 0.27 g | C(C)(=O)[O-].[Ag+]
product | (R)-4-[1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl]-2-methoxy-7H-pyrrolo[2,3-d]pyrimidin-5-yl acetate | C(C)(=O)OC1=CNC=2N=C(N=C(C21)C=2C=NN(C2)[C@H](CC#N)C2CCCC2)OC | C20H22N6O3
